US04505853
Arg-Pro-Asp-Val-Tyr-NH2
Z-Arg(Z,Z)-Pro-Asp(OBzl)-Val-Tyr-NH2 (0.5 g) was hydrogenated with Pd-black (0.5 g) and ammonium formate (0.5 g) in CH3OH (40 ml) overnight. The catalyst was filtered and the filtrate was removed on rotary evaporator. The residue was dissolved in H2O and lyophilized. The crude peptide was then placed on a Sephadex DEAE column (60 cm×2.5 cm) and eluted with 0.01M NH4HCO3 ; pH 7.9. The flow rate was 90 ml/hr and fractions of 10 ml were collected. The peptide was eluted between tubes 17-29, which were pooled and lyophilized to give 290 mg of the title product.

reactant | Z-Arg(Z,Z)-Pro-Asp(OBzl)-Val-Tyr-NH2 | 0.5 g | N([C@@H](CCCNC(N(C(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1)=N)C(=O)N1[C@H](C(=O)N[C@@H](CC(OCC2=CC=CC=C2)=O)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC2=CC=C(C=C2)O)C(=O)N)CCC1)C(=O)OCC1=CC=CC=C1 | C60H69N9O14
reactant | ammonium formate | 0.5 g | C(=O)[O-].[NH4+]
solvent | CH3OH | 40 ml | CO | CH4O
catalyst | Pd | 0.5 g | [Pd] | Pd
product | Arg-Pro-Asp-Val-Tyr-NH2 | 290 mg | N[C@@H](CCCNC(N)=N)C(=O)N1[C@H](C(=O)N[C@@H](CC(O)=O)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC2=CC=C(C=C2)O)C(=O)N)CCC1 | C29H45N9O8
